US09238656B2
(1S,2S,3R,4R)-3-(6-Chloro-2-pyridin-3-yl-3H-imidazo[4,5-b]pyridin-7-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CLIII)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (75 mg, 0.26 mmol), 3-Pyridinecarboxaldehyde (26.4 uL, 0.281 mmol), and Ammonium acetate (39.4 mg, 0.511 mmol) were reacted to produce 5.5 mg (6%) of the title compound. (300 MHz, DMSO-d6) 13.50 (s, 1H), 9.31 (s, 1H), 8.66 (d, J=5 Hz, 1H), 8.45 (d, J=8 Hz, 1H), 7.99 (s, 1H), 7.78 (s, 1H), 7.59 (q, J=13 Hz, 6 Hz, 1H), 7.29 (d, J=8 Hz, 1H), 7.24 (s, 1H), 6.42 (m, 1H), 6.37 (m, 1H), 5.18 (t, J=17 Hz, 8.5 Hz, 1H), 2.90 (s, 1H), 2.80 (s, 1H), 2.63 (d, J=8 Hz, 1H), 2.24 (d, J=8 Hz, 1H), 1.38 (d, J=8 Hz, 1H). MS=381 (M+H), HPLC: 1.69 min. (G Method)

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.26 mmol, 75 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
reactant | 3-Pyridinecarboxaldehyde | 0.281 mmol, 26.4 uL | N1=CC(=CC=C1)C=O | C6H5NO
reactant | Ammonium acetate | 0.511 mmol, 39.4 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-(6-Chloro-2-pyridin-3-yl-3H-imidazo[4,5-b]pyridin-7-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 5.5 mg, 6% | ClC=1C(=C2C(=NC1)NC(=N2)C=2C=NC=CC2)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C19H17ClN6O
